US07078405B2
8-Bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-carboxylic acid ethyl ester (1.33 g) was dissolved in ethanol (50 mL), then a 5N aqueous sodium hydroxide solution (3 mL) was added thereto, and the mixture was stirred under reflux for 1 hour. Ice was added to the reaction mixture, then 2N hydrochloric acid (8 mL) was further added thereto, and as a result, the precipitates were obtained. The resulting precipitates were collected by filtration, washed with water, and dried under reduced pressure to give 8-bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridine-3-carboxylic acid (1.1 g) as a white powder.

reactant | 8-Bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridin-3-carboxylic acid ethyl ester | 1.33 g | C(C)OC(=O)C1=C(N=C2N1C=C(C=C2Br)C)SC | C12H13BrN2O2S
reactant | sodium hydroxide | 5N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 8 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 8-bromo-6-methyl-2-(methylsulfanyl)imidazo[1,2-a]pyridine-3-carboxylic acid | 1.1 g | BrC=1C=2N(C=C(C1)C)C(=C(N2)SC)C(=O)O | C10H9BrN2O2S
